US07060844B2
To a stirred suspension of 3-(6-amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (500 mg, 1.89 mmol) and triethylamine (574 mg, 5.67 mmol) in MeOH (30 ml), was added 1M di-tert-butyl dicarbonate solution in THF (3.8 ml, 3.8 mmol). The mixture was heated at 60° C. for 4 hours, and then cooled to room temperature. After stored in refrigerator, the solid was separated, washed with MeOH and dried under vacuum to give [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-carbamic acid t-butyl ester as a yellow solid (250 mg, 36%).

reactant | 3-(6-amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 1.89 mmol, 500 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | triethylamine | 5.67 mmol, 574 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1M | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 3.8 mmol, 3.8 ml | C1CCOC1 | C4H8O
solvent | MeOH | 30 ml | CO | CH4O
product | [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-carbamic acid t-butyl ester | 250 mg, 36% | C(C)(C)(C)OC(NC=1C=C2C(OCC2=CC1)=C1C(NC2=CC=CC=C12)=O)=O | C21H20N2O4
